US07053117B2
2-Amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-indolo[7,6-b]pyran
To a mixture of 5-bromoveratraldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) in ethanol (4 mL) was added piperidine (0.05 mL, 0.5 mmol) and 7-hydroxyindole (133.2 mg, 1 mmol). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue was purified by chromatography on silica gel with EtOAc and hexane (1:2) as eluant, yielding 56 mg (13%) the title compound. 1H NMR (CDCl3): 8.39 (brs, 1H), 7.34–7.25 (m, 2H), 6.91 (d, J=2.1 Hz, 1H), 6.76 (d, J=2.1 Hz, 1H), 6.67 (d, J=8.1 Hz, 1H), 6.56 (q, J=2.1 Hz, 1H), 4.80 (s, 1H), 4.67 (brs, 2H), 3.84 (s, 3H), 3.83 (s, 3H).

reactant | 5-bromoveratraldehyde | 1 mmol, 245 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.5 mmol, 0.05 mL | N1CCCCC1 | C5H11N
reactant | 7-hydroxyindole | 1 mmol, 133.2 mg | OC=1C=CC=C2C=CNC12 | C8H7NO
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-Amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-indolo[7,6-b]pyran | 56 mg, 13% | NC1=C(C(C=2C(O1)C1=NC=CC1=CC2)C2=CC(=C(C(=C2)OC)OC)Br)C#N | C20H16BrN3O3
